US20010027196A1
2-Amino-4-isopropoxy-6-(3,4,5-trimethoxy-phenyl)-pyrimidine-5-carbonitrile
From 2-amino-4-methylsulfanyl-6-(3,4,5-trimethoxy-phenyl)-pyrimidine-5-carbonitrile and sodium isopropoxide in isopropanol. ES-MS m/e (%): 367 (M+Na+, 20), 345 (M+H+, 78), 303 ([M+H—C3H6]+, 100).

reactant | 2-amino-4-methylsulfanyl-6-(3,4,5-trimethoxy-phenyl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)SC)C#N)C1=CC(=C(C(=C1)OC)OC)OC | C15H16N4O3S
reactant | sodium isopropoxide | CC([O-])C.[Na+]
solvent | isopropanol | C(C)(C)O | C3H8O
product | 2-Amino-4-isopropoxy-6-(3,4,5-trimethoxy-phenyl)-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)OC(C)C)C#N)C1=CC(=C(C(=C1)OC)OC)OC | C17H20N4O4
